US07834019B2
In a nitrogen atmosphere, 30 mL of 3 M methylmagnesium iodide/diethyl ether was added to 300 mL of diethyl ether solution of 8.72 g of methyl 6-bromopyridine-2-carboxylate. Water and 2 N hydrochloric acid were added to the reaction liquid, and extracted with ethyl acetate. This was washed with aqueous saturated sodium hydrogencarbonate solution and saturated saline water, and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure to obtain 8.51 g of crude 2-(6-bromo-2-pyridinyl)-2-propanol as a yellow oily substance.

reactant | methylmagnesium iodide diethyl ether | 3 M, 30 mL | C[Mg]I.C(C)OCC
reactant | diethyl ether | 300 mL | C(C)OCC | C4H10O
reactant | methyl 6-bromopyridine-2-carboxylate | 8.72 g | BrC1=CC=CC(=N1)C(=O)OC | C7H6BrNO2
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | Water | O | H2O
product | 2-(6-bromo-2-pyridinyl)-2-propanol | 8.51 g | BrC1=CC=CC(=N1)C(C)(C)O | C8H10BrNO
